US04201853
2-(2-Hydroxy-3,5-dinitrophenoxy)ethanol.
An attempt to nitrate 2-(2-hydroxyphenoxy)ethanol with 3N nitric acid and sodium nitrite catalyst at 25°-30° C. was unsuccessful.

reactant | nitrate 2-(2-hydroxyphenoxy)ethanol | OC1=C(OCCO)C=CC=C1.[N+](=O)(O)[O-]
reactant | nitric acid | 3N | [N+](=O)(O)[O-] | HNO3
catalyst | sodium nitrite | N(=O)[O-].[Na+]
product | 2-(2-Hydroxy-3,5-dinitrophenoxy)ethanol | OC1=C(OCCO)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C8H8N2O7
